US06251926B1
After a mixture of 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine (600 mg), 8-(4-fluorophenyl)-8-oxooctanoic acid (514 mg), acetic acid (0.331 ml), sodium acetate (317 mg) and methanol (20 ml) was heated to reflux for 18 hours, the mixture was cooled to room temperature. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain methyl E-8-(4-fluorophenyl)-8-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]octanoate (771 mg, yield 71%) as a colorless oil from an ethyl acetate-hexane (1:6, v/v)-eluted fraction.

reactant | 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine | 600 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CON)C=C1 | C18H18N2O3
reactant | 8-(4-fluorophenyl)-8-oxooctanoic acid | 514 mg | FC1=CC=C(C=C1)C(CCCCCCC(=O)O)=O | C14H17FO3
reactant | acetic acid | 0.331 ml | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 317 mg | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | Water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | methyl E-8-(4-fluorophenyl)-8-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]octanoate | 771 mg, yield 71% | FC1=CC=C(C=C1)/C(/CCCCCCC(=O)OC)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C33H35FN2O5
